US03970704
One gram of trans ethyl 3,7,11-trimethyldodeca-2,4,10-trienoate is added to a solution of 1 equiv. of dry hydrogenfluoride in dry tetrahydrofuran. The mixture is allowed to stand at 0° for 15 hours and is then washed with water, dried and evaporated under reduced pressure to yield trans ethyl 11-fluoro-3,7,11-trimethyldodeca-2,4-dienoate which can be purified by chromatography.

reactant | trans ethyl 3,7,11-trimethyldodeca-2,4,10-trienoate | One gram | CC(=CC(=O)OCC)\C=C\CC(CCC=C(C)C)C | C17H28O2
reactant | hydrogenfluoride | 1 equiv. | F | FH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | trans ethyl 11-fluoro-3,7,11-trimethyldodeca-2,4-dienoate | FC(CCCC(C/C=C/C(=CC(=O)OCC)C)C)(C)C | C17H29FO2
